US05962710
Sodium hydroxide (1.68 g, 42.0 mmol, 1.2 eq), 2-azacyclononanone (5.0 g, 35.5 mmol, 1.0 eq) and 20 mL of water were placed a 100 mL round bottom flask equipped with a magnetic stir bar and cold water condenser to prepare aminocaprylic acid. The reaction mixture was heated to reflux for 2.5 hours (at which time the reaction was determined to have finished, by TLC) and cooled to 25 degrees C. A solution of oligosalicylate (4.87 g, 40 mmol, 1.1 eq) and dioxane (50 mL) was added to the aqueous solution of 8-aminocaprylic acid. This mixture was heated to reflux for 2.25 hours (at which time the reaction was determined to have finished, by HPLC). The clear orange reaction mixture was cooled to 25 degrees C. and acidified to pH=1 with 3% (by vol.) aqueous hydrochloric acid. All the dioxane and some of the water were stripped (60 degrees C., 50 min). The aqueous phase was decanted from the brown oil while still warm. Crystallization of the oil from ethanol-water yielded a white precipitate. The solid was recovered by filtration and was dried over 4 hours in a 50 degrees C. vacuum oven. The N-(salicyloyl)-8-aminocaprylic acid was isolated as a white solid (5.73 g, 59%).

reactant | Sodium hydroxide | 42.0 mmol, 1.68 g, 1.2 eq | [OH-].[Na+]
reactant | 2-azacyclononanone | 35.5 mmol, 5.0 g, 1.0 eq | C1(NCCCCCCC1)=O | C8H15NO
reactant | aminocaprylic acid | NC(C(=O)O)CCCCCC | C8H17NO2
reactant | 8-aminocaprylic acid | NCCCCCCCC(=O)O | C8H17NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | N-(salicyloyl)-8-aminocaprylic acid | C(C=1C(O)=CC=CC1)(=O)NCCCCCCCC(=O)O | C15H21NO4
